US07238808B2
1-{4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-phenyl}-ethanol
The title compound was prepared from 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.18) (360 mg, 1 mmol) and commercially available 4-bromo-methylbenzyl alcohol (184 mg, 1 mmol) according to general procedure II. Obtained as an off-white solid (65 mg, 13%). MS (ISP) 475.2 [(M+H)+]; mp 157–158° C.

reactant | 3-ethynyl-8-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1 mmol, 360 mg | C(#C)C1=CN=C2N1C=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C17H8F6N2
reactant | 4-bromo-methylbenzyl alcohol | 1 mmol, 184 mg | BrC1=CC=C(C(C)O)C=C1 | C8H9BrO
product | 1-{4-[8-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-phenyl}-ethanol | FC(C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC2=CC=C(C=C2)C(C)O)(F)F | C25H16F6N2O
